US09385332B2
To the suspension of diethyl p-tolylphosphonate (0.73 g, 3.2 mmol) was added a small amount of azobisisobutyronitrile (0.016 g, 0.1 mmol, in portions) and N-bromosuccinimide (0.57 g, 3.2 mmol) in anhydrous CCl4 (30 mL). The mixture was refluxed for 4 h, then cooled to 10° C. and filtered to remove succinimide. The filtrate was washed with water (30 mL) and brine (30 mL) and then dried over anhydrous Na2SO4. After filtration, the crude product was obtained via evaporation of solvent and purified by chromatography on silica gel (hexene/ethyl acetate: 2/1 as eluent) to provide diethyl 4-(bromomethyl)phenylphosphonate as a colorless oil. 1H NMR (500 MHz, CD3Cl): δ 7.79-7.83 (m, 2H), 7.50-7.52 (m, 2H), 4.51 (s, 2H), 4.09-4.18 (m, 4H), 1.33-1.36 (t, 6H).

reactant | diethyl p-tolylphosphonate | 3.2 mmol, 0.73 g | C1(=CC=C(C=C1)P(OCC)(OCC)=O)C | C11H17O3P
reactant | azobisisobutyronitrile | 0.1 mmol, 0.016 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 3.2 mmol, 0.57 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | diethyl 4-(bromomethyl)phenylphosphonate | BrCC1=CC=C(C=C1)P(OCC)(OCC)=O | C11H16BrO3P
